US06087392
To a slurry of sodium 4-(4-fluorobenzyloxy)benzenesulfonate (0.5 grams, 1.64 mmole), in methylene chloride (5 mL) was added phosphorus pentachloride (275 mg, 1.31 mmole). The resulting mixture was heated at reflux for 7 hours. After cooling in an ice bath and quenching with water (15 mL), the mixture was extracted with ethyl acetate. The organic phase was washed with brine, dried over sodium sulfate, and concentrated to afford 4-(4-fluorobenzyloxy)benzenesulfonyl chloride a white solid (130 mg, 26%).

reactant | sodium 4-(4-fluorobenzyloxy)benzenesulfonate | 1.64 mmole, 0.5 grams | FC1=CC=C(COC2=CC=C(C=C2)S(=O)(=O)[O-])C=C1.[Na+]
reactant | phosphorus pentachloride | 1.31 mmole, 275 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-fluorobenzyloxy)benzenesulfonyl chloride | FC1=CC=C(COC2=CC=C(C=C2)S(=O)(=O)Cl)C=C1 | C13H10ClFO3S
